US07820823B2
1-Cyclopropyl-6-fluoro-{4-[2-fluoro-4-{(5S)-2-oxo-5-thioureidomethyl-oxazolidin-3-yl}-phenyl]-piperazin-1-yl}-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic Acid
A mixture of 100 mg [(5S)-3-(3-fluoro-4-piperazin-1-yl-phenyl)-2-oxo-oxazolidin-5-ylmethyl]-thiourea (0.28 mmol), 87.98 mg 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (0.31 mmol), 71.57 μl trimethylchlorosilane (0.56 mmol) and 118.31 μl triethylamine (1.4 mmol) in acetonitrile was stirred in a micro wave oven for 8 min at 150° C. The reaction mixture was diluted with water and the solid filtered. The solid was purified by chromatography using a 95/5 dichloromethane/methanol mixture with 1% acetic acid as eluent to leave 50 mg of an oily residue which was crystallized from a ETOAC/hexane mixture.

reactant | [(5S)-3-(3-fluoro-4-piperazin-1-yl-phenyl)-2-oxo-oxazolidin-5-ylmethyl]-thiourea | 0.28 mmol, 100 mg | FC=1C=C(C=CC1N1CCNCC1)N1C(O[C@H](C1)CNC(=S)N)=O | C15H20FN5O2S
reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.31 mmol, 87.98 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
reactant | trimethylchlorosilane | 0.56 mmol, 71.57 μl | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 1.4 mmol, 118.31 μl | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-Cyclopropyl-6-fluoro-{4-[2-fluoro-4-{(5S)-2-oxo-5-thioureidomethyl-oxazolidin-3-yl}-phenyl]-piperazin-1-yl}-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic Acid | 50 mg | C1(CC1)N1C(=C(C(C2=CC(=CN=C12)F)=O)C(=O)O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(=S)N)=O)F | C27H27F2N7O5S
